US08377957B2
A solution of 2,4-dichloro-3-nitroquinoline (11.4 g, 47.1 mmol) in DMF (200 mL) was cooled to 0° C. Triethylamine (19.6 mL, 0.141 mol) and 1-(N-Boc-aminomethyl)-4-(aminomethyl)benzene (13.3 g, 56.5 mmol) were sequentially added, and the reaction was stirred for one hour and cooled again to 0° C. Water (300 mL) was added, and the mixture was stirred for 30 minutes at 0° C. and then extracted with dichloromethane. The dichloromethane fraction was concentrated under reduced pressure to provide 20 g of tert-butyl 4-{[(2-chloro-3-nitroquinolin-4-yl)amino]methyl}benzylcarbamate as a red oil.

reactant | 2,4-dichloro-3-nitroquinoline | 47.1 mmol, 11.4 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])Cl | C9H4Cl2N2O2
reactant | Triethylamine | 0.141 mol, 19.6 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(N-Boc-aminomethyl)-4-(aminomethyl)benzene | 56.5 mmol, 13.3 g | C(=O)(OC(C)(C)C)NCC1=CC=C(C=C1)CN | C13H20N2O2
reactant | Water | 300 mL | O | H2O
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-{[(2-chloro-3-nitroquinolin-4-yl)amino]methyl}benzylcarbamate | 20 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])NCC1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C22H23ClN4O4
